US05410049
A solution of 4-hydroxy-3-(3-nitrophenyl)-2(5H)-thiophenone (0.36 g, 1.5 mmol) in ethanol (70 ml) was hydrogenated at 40 psi using a palladium on carbon catalyst (200 mg, 55% (w /w)), for 10 min. The catalyst was filtered off and the solvent evaporated in vacuo. The brown residue was triturated with ether (10 ml) and methanol (0.5 ml). 3-(3-Aminophenyl)-4-hydroxy-2(5H)-thiophenone (208 mg, 67%) was isolated as a beige solid. mp 252°-254° C. (dec.). 1H NMR (360MHz, D6 -DMSO) δ3.88 (2H, s), 6.56 (1H, d, J=8Hz), 7.05 (1H, dd, J=8 and 8Hz), 7.13 (1H, d, J =8Hz), 7.21 (1H, s).

reactant | 4-hydroxy-3-(3-nitrophenyl)-2(5H)-thiophenone | 1.5 mmol, 0.36 g | OC1=C(C(SC1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H7NO4S
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 3-(3-Aminophenyl)-4-hydroxy-2(5H)-thiophenone | 208 mg, 67% | NC=1C=C(C=CC1)C=1C(SCC1O)=O | C10H9NO2S
